US04305945
Reaction of 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone with 5-aminopentanol at 170°-180° gave 2-(5-hydroxypentylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone which was isolated as the dihydrochloride salt m.p. 215°-217°.

reactant | 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone | CC1=CC=C(C=N1)CC=1C(NC(=NC1)SC)=O | C12H13N3OS
reactant | 5-aminopentanol | NCCCCCO | C5H13NO
product | 2-(5-hydroxypentylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | OCCCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C16H22N4O2
